US04981962
A mixture of 0.1 mol of 4-trimethylsilyl-1,2-bisdibromomethylbenzene, 0.12-0.2 mol of substituted naphthoquinone, 0.6 mol of sodium iodide and 1000 ml of acetone or acetonitrile is boiled under reflux for 5 hours with stirring and under an N2 atomosphere. After cooling, the precipitate which has been deposited is filtered off and digested with water. The filtrate obtained in this way is evaporated to dryness and the residue is dissolved in CH2Cl2, washed with NaHSO3 and dried. The residue is then subjected to steam distillation and the non-volatile fractions are extracted with ether, dried and then sublimed. 8-Trimethylsilylnaphthacene-5,12-dione of melting point 168°-170° C. is obtained in a 79% yield. 2,3-Trifluoromethyl-8-methoxynaphthacene-5,12-dione is obtained in a 33% yield in an analogous manner by direct sublimation of the filtrate, melting point>280° C.

reactant | 4-trimethylsilyl-1,2-bisdibromomethylbenzene | 0.1 mol | C[Si](C1=CC(=C(C=C1)C(Br)Br)C(Br)Br)(C)C | C11H14Br4Si
reactant | sodium iodide | 0.6 mol | [I-].[Na+]
reactant | acetone | 1000 ml | CC(=O)C | C3H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 8-Trimethylsilylnaphthacene-5,12-dione | 79% yield | C[Si](C=1C=C2C=C3C(C=4C=CC=CC4C(C3=CC2=CC1)=O)=O)(C)C | C21H18O2Si
